US07754913B2
A stirred solution of 25 mL (147.5 mmole) of benzyl methacrylate in 500 mL of dichloromethane and 125 mL of methanol was cooled to −78° C. and ozonized until the solution was pale blue, indicating excess ozone. The solution was purged with nitrogen until the blue color of ozone had dissipated, and then 14.1 mL (192 mmole, 1.3 equivalents) of dimethyl sulfide was added rapidly dropwise under nitrogen. After stirring for one hour more at −78° C. the solution was removed from the cold bath and allowed to stir at room temperature for 3 hours. The solution may be stored overnight in the freezer at this point. Volatiles were removed on the rotary evaporator at 40° C. and the residue was taken up in 100 mL of dichloromethane and washed with 100 mL of water to remove dimethyl sulfoxide. The water layer was back extracted with a small volume of dichloromethane. The combined organics were washed with water in this fashion twice more. The final organic layer was filtered through cotton, concentrated on the rotary evaporator, and high-vacuum dried leaving an essentially quantitative yield of benzyl pyruvate as a colorless liquid. A small amount of formaldehyde methyl hemiacetal and/or the methyl hemiacetal of benzyl pyruvate may be present but do not interfere in the next step.

reactant | benzyl methacrylate | 147.5 mmole, 25 mL | C(C(=C)C)(=O)OCC1=CC=CC=C1 | C11H12O2
reactant | ozone | O=[O+][O-] | O3
reactant | dimethyl sulfide | 192 mmole, 14.1 mL, 1.3 equivalents | CSC | C2H6S
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | methanol | 125 mL | CO | CH4O
product | benzyl pyruvate | quantitative yield | C(C(=O)C)(=O)OCC1=CC=CC=C1 | C10H10O3
